US08106070B2
Methyllithium (1.6 M in diethyl ether) (0.327 mL, 0.524 mmol) was added to a −78° C. solution of 4-(2,2-dimethylpropyl)-N,N-dimethyl-2-{[4-(1H-pyrazol-1-yl)phenyl]acetyl}-1H-imidazole-1-sulfonamide (75 mg, 0.175 mmol) in tetrahydrofuran (2 mL). After stirring at −78° C. for 30 min, the reaction mixture was quenched with saturated aqueous ammonium chloride and extracted with methylene chloride. The combined organic extracts were dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% EtOAc/hexane afforded 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-1-yl)phen yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | Methyllithium | 0.524 mmol, 1.6 M, 0.327 mL | C[Li]
reactant | 4-(2,2-dimethylpropyl)-N,N-dimethyl-2-{[4-(1H-pyrazol-1-yl)phenyl]acetyl}-1H-imidazole-1-sulfonamide | 0.175 mmol, 75 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1N=CC=C1)=O)(C)C | C21H27N5O3S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-1-yl)phen yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1N=CC=C1)(C)O)(C)C | C22H31N5O3S
